US08957089B2
125.5 tert-Butyl 7-(aminomethyl)-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate
tert-Butyl 7-cyano-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate (169 mg, 0.434 mmol) was dissolved in methanol (15 mL) under an atmosphere of nitrogen. Raney nickel (100 mg) was added and the reaction mixture stirred at room temperature under an atmosphere of hydrogen for 9 hours. The catalyst was removed by filtration. The filtrate was concentrated in vacuo and the crude product was purified by flash chromatography (silica, dichloromethane, methanol). Yield: 103 mg (0.262 mmol, 60%).

reactant | tert-Butyl 7-cyano-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate | 0.434 mmol, 169 mg | C(#N)C1=CC=C2CCN(C(C2=C1)C1(CCC1)C1=NC=CC=C1)C(=O)OC(C)(C)C | C24H27N3O2
solvent | methanol | 15 mL | CO | CH4O
catalyst | Raney nickel | 100 mg | [Ni] | Ni
product | tert-Butyl 7-(aminomethyl)-1-[1-(pyridin-2-yl)cyclobutyl]-3,4-dihydroisoquinoline-2(1H)-carboxylate | NCC1=CC=C2CCN(C(C2=C1)C1(CCC1)C1=NC=CC=C1)C(=O)OC(C)(C)C | C24H31N3O2
